US06642240B2
3-Oxo-2-phenyl-piperazine-1-carbonyl Chloride
To a stirred solution of triphosgene (0.558 g) in DCM (10 ml) pyridine (0.46 mL) was added at 0° C. and, after 10 min, 3-phenyl-piperazine-2-one (1 g). The ice bath was removed and the mixture was stirred at room temperature overnight. The mixture was concentrated and the product was purified by flash chromatography (CH/AcOEt 1:1) to give the title compound (0.253 g) as a foam.

reactant | triphosgene | 0.558 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-phenyl-piperazine-2-one | 1 g | C1(=CC=CC=C1)C1C(NCCN1)=O | C10H12N2O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-Oxo-2-phenyl-piperazine-1-carbonyl Chloride | 0.253 g | O=C1C(N(CCN1)C(=O)Cl)C1=CC=CC=C1 | C11H11ClN2O2
